US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3,4-dichloro-phenyl)-3-phenyl-piperidin-1-yl]-methanone
To a suspension of rac-cis-4-(3,4-dichlorophenyl)-3-phenyl-piperidine hydrochloride (200 mg, 0.58 mmol) in 20 mL dichloromethane was added triethylamine (0.35 mL, 2.5 mmol) and 3,5-bistrifluoromethyl-benzoyl chloride (0.11 mL, 0.60 mmol). The reaction mixture was stirred at room temperature overnight and then diluted with 20 mL water. The organic phase was separated and the aqueous layer was extracted twice with 20 mL dichloromethane. Organic phases were pooled, dried with magnesium sulfate and evaporated. Recrystallization of the crude product from diisopropylether and hexanes gave the desired product (268 mg, 84%) as white crystalls, MS: m/e=546.1 (M+).

reactant | rac-cis-4-(3,4-dichlorophenyl)-3-phenyl-piperidine hydrochloride | 0.58 mmol, 200 mg | Cl.ClC=1C=C(C=CC1Cl)[C@@H]1[C@@H](CNCC1)C1=CC=CC=C1
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 0.60 mmol, 0.11 mL | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3,4-dichloro-phenyl)-3-phenyl-piperidin-1-yl]-methanone | 268 mg, 84% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1)(F)F | C26H19Cl2F6NO
